US05366982
A mixture of 1.75 g of 7-(4-phenyl-2-quinolyl)-6-hepten-1-oic acid, 0.18 g of palladium on activated carbon (10% w/w) and 100 cc of tetrahydrofuran is hydrogenated under normal pressure for 1 hour at room temperature. After filtration and concentration in vacuo, the solid residue is stirred in 100 cc diethyl ether and then recrystallized from 40 cc acetone to give 7-(4-phenyl-2-quinolyl)heptanoic acid as a whitish solid. (m.p.=137°-139° C).

reactant | 7-(4-phenyl-2-quinolyl)-6-hepten-1-oic acid | 1.75 g | C1(=CC=CC=C1)C1=CC(=NC2=CC=CC=C12)C=CCCCCC(=O)O | C22H21NO2
catalyst | palladium on activated carbon | 0.18 g | [Pd] | Pd
solvent | tetrahydrofuran | 100 cc | O1CCCC1 | C4H8O
product | 7-(4-phenyl-2-quinolyl)heptanoic acid | C1(=CC=CC=C1)C1=CC(=NC2=CC=CC=C12)CCCCCCC(=O)O | C22H23NO2
